US08076329B2
A suspension of potassium carbonate 3.92 g) in a solution of 8-(4-hydroxybenzyl)-1,4-dioxaspiro[4.5]decane (1.41 g) and 1-bromo-3-chloropropane (2.81 mL) in N,N-dimethylformamide (35 mL) is stirred for 20 h at room temperature. Diethyl oxide (210 mL) is added and the suspension is filtered. The filtrate is washed with water (twice 50 mL), dried over magnesium sulfate and concentrated under reduced pressure to give 1.635 g of 8-[4-(3-chloropropoxy)benzyl]-1,4-dioxaspiro[4.5]-decane used without further purification.

reactant | potassium carbonate | 3.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-(4-hydroxybenzyl)-1,4-dioxaspiro[4.5]decane | 1.41 g | OC1=CC=C(CC2CCC3(OCCO3)CC2)C=C1 | C15H20O3
reactant | 1-bromo-3-chloropropane | 2.81 mL | BrCCCCl | C3H6BrCl
reactant | Diethyl oxide | 210 mL | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | 8-[4-(3-chloropropoxy)benzyl]-1,4-dioxaspiro[4.5]-decane | 1.635 g | ClCCCOC1=CC=C(CC2CCC3(OCCO3)CC2)C=C1 | C18H25ClO3
